US08084448B2
5-[4-(3-Aminopropyl)-2-hydroxyphenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one
To HCl/dioxane (5 mL, 4.0 M) is added {3-[3-hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-propyl}-carbamic acid tert-butyl ester potassium salt (0.7 g, 1.65 mmol) and the mixture is stirred at RT for 4 h. The solvent is removed under reduced pressure and water is added. The solution is washed with ether and the aqueous phase lyophilized to give the hydrochloride salt of the title compound as a yellow powder: (M−1)−=284. 1H NMR (400 MHz, DMSO-D6) δ ppm 1.77-1.88 (m, 2 H) 2.58 (t, J=7.71 Hz, 2 H) 2.72-2.81 (m, 2 H) 4.40 (s, 2 H) 6.68 (d, J=8.34 Hz, 1 H) 6.81 (s, 1 H) 7.26 (d, J=8.08 Hz, 1 H)

reactant | HCl dioxane | 4.0 M, 5 mL | Cl.O1CCOCC1
reactant | {3-[3-hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-propyl}-carbamic acid tert-butyl ester potassium salt | 1.65 mmol, 0.7 g | [K].C(C)(C)(C)OC(NCCCC1=CC(=C(C=C1)N1S(NC(C1)=O)(=O)=O)O)=O
product | 5-[4-(3-Aminopropyl)-2-hydroxyphenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one | NCCCC1=CC(=C(C=C1)N1CC(NS1(=O)=O)=O)O | C11H15N3O4S
